** sch_path: /home/coold69/Documents/msvsdspwm/Week 0/xschem/inverter_tb.sch
**.subckt inverter_tb
X1 in out net1 GND inverter
V1 net1 GND 1.8
.save i(v1)
V2 in GND pulse(0 1.8 1n 1n 1n 4n 10n)
.save i(v2)
**** begin user architecture code


.lib ~/open_pdks/sources/sky130-pdk/libraries/sky130_fd_pr/latest/models/sky130.lib.spice tt
.control
save all
tran 1n 20n
plot v(in) v(out)
.endc

**** end user architecture code
**.ends

* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/coold69/Documents/msvsdspwm/Week 0/xschem/inverter.sym
** sch_path: /home/coold69/Documents/msvsdspwm/Week 0/xschem/inverter.sch
.subckt inverter vin vout vdd vss
*.ipin vin
*.opin vout
*.iopin vdd
*.iopin vss
XM2 vout vin vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=4.5 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM3 vout vin vdd VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
